Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
imbalance, facial numbness
 
Major Surgical or Invasive Procedure:
lumbar puncture

 
History of Present Illness:
Ms. ___ is a ___ woman with a history of breast cancer 
metastatic to the cerebellum. She is s/p multiple resections and 
cyberknife treatments for her cerebellar disease. Follow-up 
scans have shown leptomeningeal enhancement but no FDG-avid 
disease on PET. She has recently been undergoing treatment with 
CPT-11, Avastin, and Herceptin, most recently on ___.
.
For the past week, the patient has been experiencing progressive 
neurologic symptoms. Her gait has been becoming more wide-based, 
and she feels that she loses her balance. This has caused her to 
start to need to use a cane. She has had several minor falls 
because of this. She also complains of a visual sensation of the 
world is jiggling that her sister associates with the nystagmus 
of her eyes. Finally, she has noticed a sensation of facial 
"numbness" which is not a tingling sesation nor a lack of 
sensation but rather a perception of right facial weakness and 
"slowing."
.
Because of these symptoms, she was seen by Dr. ___ on 
___. A large-volume lumbar puncture was done. Cytology was 
negative for evidence of leptomeningeal involvement. She 
presented today for chemotherapy and reported ongoing symptoms. 
She was also having some nausea with one episode of vomitting.
.
Review of systems was negative for fevers or chills. No 
abdominal pain, diarrhea, or change in bowel movements. No 
headaches, neck, or back pain. No weakness apart from the R 
face. No tingling. No double vision. No dysuria, frequency, or 
urgency. No chest pain, shortness of breath, or cough.
.

.
 
Past Medical History:
Past Medical History:
- breast cancer as below
- fibroadenoma of the left breast in ___.
.
.
Past Oncologic History (per OMR): She was initally dx'ed in 
___ and treated with Adriamycin and taxotere, mastectomy and 
XRT. She developed liver mets shortly after completing her 
adjuvant therapy and was treated with Heceptin and xeloda. Her 
herceptin was switched to lapatanib on ___. She developped 
cerebellar mets in ___. She has had 2 resections for cerebellar 
mets ___ and ___ ___s
cyberknife tx ___ and ___. She had yet another recurrence of 
cerebellar mets and started tx with CPT-11/ avastin/ herceptin 
on ___ and completed 6 cycles. CPT-11 was held and continued 
with Herceptin and Avastin, till ___ when it was added back 
in due to worsening visual problems, blurry and double vision 
with R worse than the L.
 
Social History:
___
Family History:
notable for a daughter who survived ___ and a father 
who died in his ___ from lymphoma
 
Physical Exam:
T 97.3, BP 155/87, HR 75, Resp 18, O2 Sat 100% on RA
Gen: appears comfortable, pleasant, conversant
HEENT: moist mucous membranes
Neck: supple, no lymphadenopathy or thyromegaly
Heart: regular, no murmur
Lungs: clear bilaterally, no wheezes
Abdomen: normoactive bowel sounds, soft, nontender
Extremities: warm, no edema
Neuro: Pupils equally round and reactive. Extra-ocular movements 
intact with horizontal nystagmus most prominent on rightward 
gaze. Vision not tested Face is symmetrical with full motor 
strength. Facial sensation is intact and symmetrical although 
patient reports R-sided "numbness." Palate elevates 
symmetrically. Trapezius and SCM intact and ___. Speech is 
slightly altered, with subtle slurring of consonants. Her motor 
exam is notable for full strength of major flexor and extensor 
groups in upper and lower extremities bilaterally. Sensation to 
light touch is intact and symmetrical. On cerebellar exam, 
finger-nose-finger is impaired on the right more so than the 
left. Rapid alternating movements are slow and clumsy 
bilaterally, right hand worse than left. Heel to shin is 
slightly impaired. Gait is wide-based with apparent imbalance
 
Pertinent Results:
Admission labs;

___ 09:08AM   WBC-6.5 RBC-4.47 HGB-14.3 HCT-40.0 MCV-89 
MCH-31.9 MCHC-35.7* RDW-13.3
___ 10:30AM   ___

CSF:

___ 04:52PM CEREBROSPINAL FLUID (CSF)  WBC-2 RBC-372* 
POLYS-8 ___ MONOS-12 EOS-1
___ 04:52PM CEREBROSPINAL FLUID (CSF)  PROTEIN-33 
GLUCOSE-61

MRI brain (PRELIMINARY):

No change since the previous study of ___. Enhancement in 
the right
cerebellum again identified, unchanged.

 
Brief Hospital Course:
ASSESSMENT:  A ___ woman with metastatic breast cancer 
currently undergoing treatment, currently day ___ s/p CPT-11, 
Avastin, and Herceptin, presents with neurologic symptoms.
.
#) Neurologic symptoms:  New gait impairment, slurring of 
speech,  worsening nystagmus, were all concerning for new 
metastatic disease or leptomeningeal carcinoma.  Post-radiation 
changes were also on the differential.   LP two days prior to 
admission did not show evidence of malignancy, but the 
sensitivity of a single LP is only mediocre.   Thus, she 
underwent a second large-volume LP for cytology, which was 
negative for any malignant cells.  She also underwent repeat 
MRI, which was essentially unchanged from prior 2 weeks earlier. 
 She worked with the physical therapist who provided a walker 
that she was able to use safely.  Thus, she was discharged to 
home with plans to return to Dr. ___ as an outpatient for 
possible cisternal puncture, which would have a higher 
sensitivity to detect leptomeningeal spread of her cancer.
.
#) History of hypertension:  She was mildly hypertensive.  
Lisinopril was continued.  
.
#) Metastatic breast cancer:  Admission was day ___ s/p of cycle 
14 of herceptin/Avastin/CPT-11.  She received her herceptin that 
day, but Avastin and CPT-11 were held.  Her further therapeutic 
regimen will be determined pending the results of the outpatient 
cisternal LP.
.
#) Nausea/vomitting:  There was concerning for increased 
intracranial pressure in this patient.  However, opening 
pressure of CSF recently normal. She was given antiemetics, and 
nausea dissipated.
.

.
.
 
Medications on Admission:
citalopram 20 mg daily
lisinopril 5 mg daily
modafinil 100 mg bid (held today)
.
 
Discharge Medications:
1. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  


 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
primary:  metastatic breast cacner

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted to the hospital because of worsening 
neurologic symptoms.  You had a lumbar puncture that did not 
show malignant cells.  You also had an MRI that showed no real 
change as compared to your prior MRI.

A cisternal puncture is being arranged for you as an outpatient. 
Dr. ___.

Please call your doctor or come to the emergency room for 
worsening neurologic symptoms including weakness, numbness, 
trouble speaking, or for chest pain, shortness of breath, fevers 
and chills, or other symptoms that are concerning to you.
 
Followup Instructions:
___